US05872115
Step 3): The mixture of 4-dimethylamino-2-nitrobenzoic acid (4.20 g, 20 mmol), 4-amino-1-diphenylmethylpiperidine (5.33 g, 20 mmol). EDCl (4.00 g, 21 mmol) and DMAP (2.45 g, 20 mmol) in CH2Cl2 (60 ml) was stirred at room temperature for 17.5 hours. The reaction mixture was diluted with CH2Cl2, washed with H2O and brine. The organic layer was dried over MgSO4 and concentrated under vacuum. The residue was purified with chromatography on SiO2 (50% AcOEt in hexane) and recrystallized from AcOEt to obtain 4-dimethylamino-2-nitro-N-(1-diphenylmethylpiperidin-4-yl)benzamide. 5.44 g (59%): mp 183° C.

reactant | 4-dimethylamino-2-nitrobenzoic acid | 20 mmol, 4.20 g | CN(C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-])C | C9H10N2O4
reactant | 4-amino-1-diphenylmethylpiperidine | 20 mmol, 5.33 g | NC1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H22N2
reactant | EDCl | 21 mmol, 4.00 g | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | 20 mmol, 2.45 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | 4-dimethylamino-2-nitro-N-(1-diphenylmethylpiperidin-4-yl)benzamide | CN(C1=CC(=C(C(=O)NC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)[N+](=O)[O-])C | C27H30N4O3
